US07615562B2
Step C: [4-(5-Bromo-thiophen-2-yl)-pyrimidin-2-yl]-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine
4-(5-Bromo-thiophen-2-yl)-2-methanesulfinyl-pyrimidine (110 mg, 0.36 mmol) and 4-amino-2,2,6,6,-tetramethyl piperidine (0.6 ml) were heated to 130° C. for 45 minutes. Evaporation and chromatography on silicagel (TBDME/MeOH/ammonia:90/9/1) gave the title compound as slightly coloured crystals. Yield: 100 mg (70%).

reactant | 4-(5-Bromo-thiophen-2-yl)-2-methanesulfinyl-pyrimidine | 0.36 mmol, 110 mg | BrC1=CC=C(S1)C1=NC(=NC=C1)S(=O)C | C9H7BrN2OS2
reactant | 4-amino-2,2,6,6,-tetramethyl piperidine | 0.6 ml | NC1CC(NC(C1)(C)C)(C)C | C9H20N2
product | [4-(5-Bromo-thiophen-2-yl)-pyrimidin-2-yl]-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | BrC1=CC=C(S1)C1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C17H23BrN4S
